US04307116
Ethoxalyl chloride (10.6 cc) is added dropwise, in the course of 10 minutes, to a solution, at 20° C., of 1-ethyl-thiosemicarbazide (11.9 g) in acetone (200 cc). The temperature rises to 43° C., the mixture is stirred for 1 hour without heating and is concentrated to dryness at 20° C. under 20 mm Hg (2.7 kPa), the residue is taken up in methanol (30 cc) and the crystallisation is started. After filtration and drying, 1-ethyl-1-ethoxalyl-thiosemicarbazide (13.2 g) is obtained in the form of a white solid melting at 170° C.

reactant | Ethoxalyl chloride | 10.6 cc | C(=O)(C(=O)OCC)Cl | C4H5ClO3
reactant | 1-ethyl-thiosemicarbazide | 11.9 g | C(C)NNC(=S)N | C3H9N3S
solvent | acetone | 200 cc | CC(=O)C | C3H6O
product | 1-ethyl-1-ethoxalyl-thiosemicarbazide | 13.2 g | C(C)N(NC(=S)N)C(=O)C(=O)OCC | C7H13N3O3S
